US07595397B2
2-Benzyl-4-(4-bromo-benzyl)-morpholine
The above compound could be made in the following manner: 1.5 eq. of 4-Bromobenzyl bromide and 1 eq. of 2-Benzyl-morpholine in acetonitrile could be stirred at room temperature and 3 eq. of potassium carbonate could be added. The reaction could be stirred at room temperature overnight. The solution could be filtered through Celite and concentrated in vacuo to afford a brown solid. Purification could be done by flash chromatography to afford product.

reactant | 4-Bromobenzyl bromide | 1.5 eq. | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | 2-Benzyl-morpholine | 1 eq. | C(C1=CC=CC=C1)C1CNCCO1 | C11H15NO
reactant | potassium carbonate | 3 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Benzyl-4-(4-bromo-benzyl)-morpholine | C(C1=CC=CC=C1)C1CN(CCO1)CC1=CC=C(C=C1)Br | C18H20BrNO
